US05741912
contacting the product of (iv) with N-hydroxyphthalimide, triphenylphosphine and diethylazodicarboxylate to obtain a stereoisomer of 2-(1-(t-Boc-amino)methyl)-2-(2-nitro-1H-imidazol-1-yl)ethoxy)1H-isoindole-1,3(2H)-dione;

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 1H-isoindole-1,3(2H)-dione | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
